US04185154
To a solution of 7-hydroxy-7,11,15,19-tetramethyleicosane-2,4-dione (72.5 g) and dimethyl acetonedicarboxylate (29.6 g) in methanol (190 ml) at 0° was added a solution of sodium methoxide in methanol (from 2.44 g of sodium and 90 ml of methanol). The solution was stirred at room temperature for 44 hr and was concentrated on a rotary evaporator to remove approx. 100 ml of methanol. The residual solution was poured onto ice (500 g) and 20% (v/v) aqueous hydrochloric acid (45 ml). The mixture was extracted with ether (3× 300 ml) and the combined extracts were washed with brine and dried over anhydrous sodium sulfate and were concentrated on a rotary evaporator to give 91.65 g of crude dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate as an orange oil. A 90.2 g portion of the oil was dissolved in ether (400 ml) and was washed with 20% by weight aqueous potassium carbonate (to remove the unreacted dimethyl acetonedicarboxylate), brine and was dried over anhydrous sodium sulfate. The solution was concentrated on a rotary evaporator to give 83.13 g of partially purified diester dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate. The total material was chromatographed on 2.45 kg of silica gel eluting with 20-30% by volume ether in hexane to give 30.83 g of dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate as a colorless oil.

reactant | 7-hydroxy-7,11,15,19-tetramethyleicosane-2,4-dione | 72.5 g | OC(CCC(CC(C)=O)=O)(CCCC(CCCC(CCCC(C)C)C)C)C | C24H46O3
reactant | dimethyl acetonedicarboxylate | 29.6 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 190 ml | CO | CH4O
solvent | methanol | 90 ml, 2.44 g | CO | CH4O
product | dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate | 91.65 g | OC1=C(C(=CC(=C1C(=O)OC)C)CCC(CCCC(CCCC(CCCC(C)C)C)C)(C)O)C(=O)OC | C31H52O6
